US04748239
(G) (cis)-3-(Acetyloxy)-1-[2-(dimethylamino)ethyl]-1,3,4,5-tetrahydro-4-(4-methoxyphenyl)-7-(trifluoromethyl)-2H-1-benzazepin-2-one, monohydrochloride
A stirred suspension of (cis)-3-(hydroxy)-1-[2-(dimethylamino)ethyl]-1,3,4,5-tetrahydro-4-(4-methoxyphenyl)-7-(trifluoromethyl)-2H-1-benzazepin-2-one, monohydrochloride (1.50 g; 3.27 mmol) in 50 ml of acetic anhydride was heated in an oil bath at 110°-117° C. (solution obtained) for 2.5 hours (under argon). TLC (8:1:1 dichloromethane-methanol-acetic acid) showed the reaction to be complete. The acetic anhydride was removed on a rotary evaporator at 0.2 mm to give a solid. The latter was rubbed under ethyl acetate, 1 ml of saturated hydrogen chloride in ether (to pH 2) was added and the evaporation repeated. The colorless material was rubbed under ether, cooled overnight, filtered, washed in ether, and dried in vacuo; yield 1.43 g; melting point 230°-232° C. (dec.); s. 227° C. TLC: Rf =0.41 (8:1:1 dichloromethane-methanol-acetic acid).

reactant | (cis)-3-(hydroxy)-1-[2-(dimethylamino)ethyl]-1,3,4,5-tetrahydro-4-(4-methoxyphenyl)-7-(trifluoromethyl)-2H-1-benzazepin-2-one, monohydrochloride | 3.27 mmol, 1.50 g | Cl.O[C@@H]1C(N(C2=C(C[C@@H]1C1=CC=C(C=C1)OC)C=C(C=C2)C(F)(F)F)CCN(C)C)=O
reactant | dichloromethane methanol acetic acid | ClCCl.CO.C(C)(=O)O
reactant | hydrogen chloride | 1 ml | Cl | ClH
solvent | acetic anhydride | 50 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | ether | pH 2 | CCOCC | C4H10O
product | (cis)-3-(Acetyloxy)-1-[2-(dimethylamino)ethyl]-1,3,4,5-tetrahydro-4-(4-methoxyphenyl)-7-(trifluoromethyl)-2H-1-benzazepin-2-one, monohydrochloride | Cl.C(C)(=O)O[C@@H]1C(N(C2=C(C[C@@H]1C1=CC=C(C=C1)OC)C=C(C=C2)C(F)(F)F)CCN(C)C)=O | InChI=1S/C24H27F3N2O4.ClH/c1-15(30)33-22-20(16-5-8-19(32-4)9-6-16)14-17-13-18(24(25,26)27)7-10-21(17)29(23(22)31)12-11-28(2)3;/h5-10,13,20,22H,11-12,14H2,1-4H3;1H/t20-,22+;/m1./s1
